### PR TITLE
[Merged by Bors] - feat: add monotonicity theorems pertaining to the continuous functional calculus

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 1]
```diff
@@ -670,3 +683,101 @@ lemma cfc_comp_neg (hf : ContinuousOn f ((- ·) '' (spectrum R (a : A))) := by c
...
+variable [Algebra R A] [StarModule R A] [ContinuousFunctionalCalculus R p]
+variable [NonnegSpectrumClass R A]
+
+lemma cfcHom_le_iff {a : A} (ha : p a) {f g : C(spectrum R a, R)} :
+    cfcHom ha f ≤ cfcHom ha g ↔ f ≤ g := by
+  rw [← sub_nonneg, ← map_sub, cfcHom_nonneg_iff, sub_nonneg]
+
+lemma cfc_le_iff (f g : R → R) (a : A) (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac)
+    (hg : ContinuousOn g (spectrum R a) := by cfc_cont_tac) (ha : p a := by cfc_tac) :
+    cfc f a ≤ cfc g a ↔ ∀ x ∈ spectrum R a, f x ≤ g x := by
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:772]: Are these two lemmas false for `ℝ≥0`...?

Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:772]: No, but unfortunately you have to go through \R to prove them. That's because when we have a generic semiring we don't have a subtraction. In NNReal we do, and things can play nice, but we can't encapsulate that with existing typeclasses.

Comment (dupuisf) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:772]: Alright, I see.

**Comment by dupuisf** [comment]
Thanks!

bors r+
